US07977358B2
A] N-((3R,5S)-5-Hydroxymethyl-pyrrolidin-3-yl)-acetamide hydrochloride
To an ice-cold suspension of lithium aluminium hydride (0.6 g, 15 mmol) in THF (10 ml) was added a solution of (2S,4R)-4-azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1.0 g, 4 mmol) in THF (5 mL) and the mixture stirred for 1 h. Water was then cautiously added to the reaction and the mixture filtered and concentrated. The residue was then taken up in CH2Cl2 (10 ml) and saturated sodium carbonate (10 ml) and acetic anhydride (0.3 ml, 3 mmol) added. The mixture was stirred for 2 h after which time the organic was collected, dried (Na2SO4) and concentrated. The residue (0.6 g, 2 mmol) was then treated with 4 M hydrochloric acid in dioxane (5 ml) for 1 h, evaporation of the solvent afforded the title compound (0.5 g, 80%) as a yellow solid. MS: 159.1 (MH+).

reactant | lithium aluminium hydride | 15 mmol, 0.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S,4R)-4-azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 4 mmol, 1.0 g | COC(=O)[C@H]1N(C[C@@H](C1)N=[N+]=[N-])C(=O)OC(C)(C)C | C11H18N4O4
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic anhydride | 3 mmol, 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 4 M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | N-((3R,5S)-5-Hydroxymethyl-pyrrolidin-3-yl)-acetamide hydrochloride | 0.5 g, 80% | Cl.OC[C@@H]1C[C@H](CN1)NC(C)=O | InChI=1S/C7H14N2O2.ClH/c1-5(11)9-6-2-7(4-10)8-3-6;/h6-8,10H,2-4H2,1H3,(H,9,11);1H/t6-,7+;/m1./s1
